US07855202B2
2,3′-Dichloro-5-nitro-3,4′-bipyridin-6-amine
Following the same procedure as in Intermediate 1 (step a), but using 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-chloropyridine, 6-chloro-5-iodo-3-nitropyridin-2-amine (Intermediate 5—step a) was transformed into the title compound as a white solid (205 mg, 22%).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3-chloropyridine | CC1(OB(OC1(C)C)C1=C(C=NC=C1)Cl)C | C11H15BClNO2
reactant | 6-chloro-5-iodo-3-nitropyridin-2-amine | ClC1=C(C=C(C(=N1)N)[N+](=O)[O-])I | C5H3ClIN3O2
product | 2,3′-Dichloro-5-nitro-3,4′-bipyridin-6-amine | 205 mg, 22% | ClC1=NC(=C(C=C1C1=C(C=NC=C1)Cl)[N+](=O)[O-])N | C10H6Cl2N4O2
